US09126940B2
4-Bromophenylacetic acid (1.00 g, 4.65 mmol) was dissolved in 45 mls of dry THF and chilled to −78° C. To this was added LDA (9.30 mls, 18.6 mmol, 2M in THF/heptane), resulting in a dark color, and this mixture was stirred at −78° C. for 20 minutes. (2-bromoethoxy)(tert-butyl)dimethylsilane (1.20 mls, 5.58 mmol) was then added via syringe, and then the cooling bath was removed to allowed the reaction to warm to room temperature. Upon warming, the mixture became an amber color. Once at room temperature, 50 mls of 1N aqueous HCl were then added and the mixture was vigorously stirred for 16 hours, then extracted with EtOAc (2×), extracts washed with 2M aqueous sodium carbonate, dried over sodium sulfate and concentrated to an orange oil. Flash 40 Biotage (40M cartridge, 3:1 Hexane:EtOAc) afforded 211 mgs (19%) of 3-(4-bromophenyl)dihydrofuran-2(3H)-one as an orange oil.

reactant | 4-Bromophenylacetic acid | 4.65 mmol, 1.00 g | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | LDA | 18.6 mmol, 2M, 9.30 mls | [Li+].CC(C)[N-]C(C)C
reactant | (2-bromoethoxy)(tert-butyl)dimethylsilane | 5.58 mmol, 1.20 mls | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | HCl | 1N, 50 mls | Cl | ClH
solvent | THF | 45 mls | C1CCOC1 | C4H8O
product | 3-(4-bromophenyl)dihydrofuran-2(3H)-one | 211 mgs, 19% | BrC1=CC=C(C=C1)C1C(OCC1)=O | C10H9BrO2
